US08084452B2
317 mg (1.41 mmol) of N-[(6-chloro-5-fluoropyridin-3-yl)methyl]-2,2-difluoroethylamine (III-1) are added to 173 mg (1.69 mmol) of tetronic acid in 400 μA of acetic acid, and the mixture is stirred at room temperature for 6 hours. The reaction mixture is concentrated under reduced pressure, and the residue is then partitioned between dichloromethane and water. The aqueous phase is extracted two more times with dichloromethane. The combined organic phases are washed with 1 N aqueous sodium hydroxide solution and concentrated under reduced pressure. Purification of the residue by column chromatography on silica gel (silica gel 60-Merck, particle size: 0.04 to 0.063 mm) using the mobile phase mixture ethyl acetate:cyclohexane (3:1) gives 316 mg (64% of theory) of 4-[[(6-chloro-5-fluoropyridin-3-yl)methyl](2,2-difluoroethyl)amino]furan-2(5H)-one.

reactant | N-[(6-chloro-5-fluoropyridin-3-yl)methyl]-2,2-difluoroethylamine | 1.41 mmol, 317 mg | ClC1=C(C=C(C=N1)CNCC(F)F)F | C8H8ClF3N2
reactant | tetronic acid | 1.69 mmol, 173 mg | C1C(=O)COC1=O | C4H4O3
solvent | acetic acid | C(C)(=O)O | C2H4O2
product | 4-[[(6-chloro-5-fluoropyridin-3-yl)methyl](2,2-difluoroethyl)amino]furan-2(5H)-one | 316 mg, 64% | ClC1=C(C=C(C=N1)CN(C1=CC(OC1)=O)CC(F)F)F | C12H10ClF3N2O2
